US04791115
(a) 2-Methyl-lysergic acid methyl ester
To a suspension of 25 g 2-methyl-lysergic acid in 500 ml CH3OH are added 253 ml 3.5N HCl/CH3OH. The reaction mixture is then stirred at room temperature for 15 hours, then diluted with 500 ml CH3OH and stirred 2 days. The mixture is evaporated and partitioned between ethyl acetate and 5% K2CO3 solution. After drying and evaporating the heading compound is obtained as crystals, which are then rubbed with ether/hexane (1:1), m.p. 154° (sintering 150°).

reactant | 2-methyl-lysergic acid | 25 g | CC1=C2C[C@H]3N(C[C@H](C(O)=O)C=C3C=3C=CC=C(N1)C32)C | C17H18N2O2
reactant | HCl CH3OH | 3.5N, 253 ml | Cl.CO
reactant | ether hexane | CCOCC.CCCCCC
solvent | CH3OH | 500 ml | CO | CH4O
solvent | CH3OH | 500 ml | CO | CH4O
product | 2-Methyl-lysergic acid methyl ester | COC(=O)[C@H]1CN(C)[C@@H]2CC3=C(NC4=CC=CC(C2=C1)=C34)C | C18H20N2O2
